US07423030B2
21.1. 2-cyclopropanecarbonyl-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with cyclopropyl-N-methoxy-N-methylcarboxamide. A yellow powder is obtained by precipitation in isopropyl ether.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclopropyl-N-methoxy-N-methylcarboxamide | C1(CC1)C(=O)N(C)OC | C6H11NO2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 2-cyclopropanecarbonyl-5-methoxybenzoic acid | C1(CC1)C(=O)C1=C(C(=O)O)C=C(C=C1)OC | C12H12O4
